US07560558B2
Compound 268: 4-(5,6-Dimethyl-2-phenyl-pyridin-3-yloxy)-6,7-dimethoxy-quinoline
1,2-Dichlorobenzene (4.5 ml) was added to 5,6-dimethyl-2-phenyl-pyridin-3-ol (267 mg), 4-chloro-6,7-dimethoxyquinoline (100 mg), and 4-(N,N-dimethylamino)pyridine (164 mg), and the mixture was stirred at 140° C. for 8 hr. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using hexane-acetone to give the title compound (159 mg, yield 92%).

reactant | 5,6-dimethyl-2-phenyl-pyridin-3-ol | 267 mg | CC=1C=C(C(=NC1C)C1=CC=CC=C1)O | C13H13NO
reactant | 4-chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-(N,N-dimethylamino)pyridine | 164 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | 1,2-Dichlorobenzene | 4.5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(5,6-Dimethyl-2-phenyl-pyridin-3-yloxy)-6,7-dimethoxy-quinoline | 159 mg, yield 92% | CC=1C=C(C(=NC1C)C1=CC=CC=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H22N2O3
